US08071597B2
Intermediate 75: 1,4-Dihydropyrido[2,3-b]pyrazine-2,3-dione (Formula VIII)
To a suspension of 2,3-diaminopyridine (20 g, 0.136 mol) in 4N aqueous HCl (200 ml) is added oxalic acid (20.7 g, 0.164 mol) and the reaction mixture is refluxed for 20 h. The reaction mixture is cooled and the solid precipitated is filtered, washed with water and dried under vacuum to afford 20 g (89%) of the title compound as a solid. HPLC (max plot) 98%.

reactant | 2,3-diaminopyridine | 0.136 mol, 20 g | NC1=NC=CC=C1N | C5H7N3
reactant | oxalic acid | 0.164 mol, 20.7 g | C(C(=O)O)(=O)O | C2H2O4
solvent | HCl | 4N, 200 ml | Cl | ClH
product | 1,4-Dihydropyrido[2,3-b]pyrazine-2,3-dione | 20 g, 89% | N1C2=C(NC(C1=O)=O)N=CC=C2 | C7H5N3O2
